US07871998B2
tert-Butyl (4-{(1S,2R)-2-({[5,5-dimethyl-2-(4-methylphenyl)-1,3-dioxan-2-yl]methyl}thio)-1-[(4-fluorophenyl)amino]-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate
Tetraisopropyl orthotitanate (0.37 ml, 1.23 mmol) was added to a solution of TiCl4 (1M in CH2Cl2, 3.3 ml, 3.3 mmol) in CH2Cl2 (50 ml) at 0° C. under inert atmosphere. The mixture was stirred for ten minutes. (4S)-3-[({[5,5-Dimethyl-2-(4-methylphenyl)-1,3-dioxan-2-yl]methyl}thio)acetyl]-4-phenyl-1,3-oxazolidin-2-one (2.0 g, 4.4 mmol) in dry CH2Cl2 (50 ml) was added dropwise over 20 minutes and the mixture was stirred for ten minutes. tert-Butyl (4-{[(4-fluorophenyl)imino]methyl}phenoxy)acetate (2.9 g, 8.8 mmol) in dry CH2Cl2 (50 ml) was added dropwise over 30 minutes. The mixture was cooled to −30° C. and stirred for 20 minutes. Ethyl diisopropyl amine (1.5 ml, 8.8 mmol) in 10 ml dry CH2Cl2 was added dropwise over ten minutes. The mixture was stirred at −30° C. for four hours. The mixture was cooled to −78° C. and isopropanol (60 ml) was added. The temperature was allowed to reach room temperature over two hours. H2O (100 ml) was added and the mixture was stirred for 20 minutes and extracted twice with diethyl ether. The combined organic layers were washed with water, dried (MgSO4) and concentrated under reduced pressure. Purification by flash-chromatography (hexane:EtOAc 5:1 then 4:1) afforded 2.55 g (74%) of the title compound as a white solid. 1H-NMR (CDCl3, 200 MHz): δ 0.6 (s, 3H), 1.3 (s, 3H), 1.5 (s, 9H), 2.4 (s, 3H), 2.6-2.9 (m, 2H), 3.3-3.5 (m, 4H), 4.1-4.3 (m, 1H), 4.5 (s, 2H), 4.6-4.8 (m, 2H), 5.0-5.3 (s, broad, 1H), 5.2 (m, 1H), 5.7 (d, 1H), 6.4 (m, 2H), 6.6-6.8 (m, 4H), 6.9 (m, 2H), 7.1-7.4 (m, 9H).

reactant | (4S)-3-[({[5,5-Dimethyl-2-(4-methylphenyl)-1,3-dioxan-2-yl]methyl}thio)acetyl]-4-phenyl-1,3-oxazolidin-2-one | 4.4 mmol, 2.0 g | CC1(COC(OC1)(C1=CC=C(C=C1)C)CSCC(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)C | C25H29NO5S
reactant | tert-Butyl (4-{[(4-fluorophenyl)imino]methyl}phenoxy)acetate | 8.8 mmol, 2.9 g | FC1=CC=C(C=C1)N=CC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C19H20FNO3
reactant | Ethyl diisopropyl amine | 8.8 mmol, 1.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | isopropanol | 60 ml | C(C)(C)O | C3H8O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | Tetraisopropyl orthotitanate | 1.23 mmol, 0.37 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
catalyst | TiCl4 | 3.3 mmol, 1M, 3.3 ml | Cl[Ti](Cl)(Cl)Cl
solvent | H2O | 100 ml | O | H2O
product | tert-Butyl (4-{(1S,2R)-2-({[5,5-dimethyl-2-(4-methylphenyl)-1,3-dioxan-2-yl]methyl}thio)-1-[(4-fluorophenyl)amino]-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate | 2.55 g, 74% | CC1(COC(OC1)(C1=CC=C(C=C1)C)CS[C@H]([C@@H](NC1=CC=C(C=C1)F)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1)C(N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O)C | C44H49FN2O8S
